US03937835
A mixture of 22.4 g (0.03 mole) 2,7-bis(3-chloropropionyl)phenoxathiin, 1 g of potassium iodide, 75 ml of diethylamine and 75 ml of tetrahydrofuran is allowed to stand for 3 days then filtered and the filtrate evaporated to dryness. The residue is dissolved in ethanol and acidified with etheral HCl to Congo Red. The solution is diluted with ethyl ether and the solid filtered off. The solid is thrice dissolved in methanol, filtered, precipitated with ethyl ether and filtered. The resulting product is dried to give 2,7-bis(3-diethylaminopropionyl)phenoxathiin dihydrochloride. M.P. 189°-190°C.

reactant | 2,7-bis(3-chloropropionyl)phenoxathiin | 0.03 mole, 22.4 g | ClCCC(=O)C1=CC=2SC3=CC=C(C=C3OC2C=C1)C(CCCl)=O | C18H14Cl2O3S
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | diethylamine | 75 ml | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2,7-bis(3-diethylaminopropionyl)phenoxathiin dihydrochloride | Cl.Cl.C(C)N(CCC(=O)C1=CC=2SC3=CC=C(C=C3OC2C=C1)C(CCN(CC)CC)=O)CC | InChI=1S/C26H34N2O3S.2ClH/c1-5-27(6-2)15-13-21(29)19-10-12-25-24(17-19)31-23-11-9-20(18-26(23)32-25)22(30)14-16-28(7-3)8-4;;/h9-12,17-18H,5-8,13-16H2,1-4H3;2*1H
